US08541438B2
Sodium carbonate (21.1 g, 199 mmol) was added to a suspension of fl-alanine ethyl ester hydrochloride (10.2 g, 66.4 mmol) and benzyl bromide (16.2 mL, 136 mmol) in acetonitrile (265 mL). The reaction mixture was stirred at ambient temperature overnight and then filtered through a layer of CELITE filter aid. The filter cake was rinsed with acetonitrile (100 mL). The filtrate was concentrated under reduced pressure to provide 20.28 g of ethyl 3-dibenzylaminopropionate as a pale yellow oil.

reactant | Sodium carbonate | 199 mmol, 21.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | alanine ethyl ester hydrochloride | 66.4 mmol, 10.2 g | Cl.C(C)OC([C@@H](N)C)=O
reactant | benzyl bromide | 136 mmol, 16.2 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | acetonitrile | 265 mL | C(C)#N | C2H3N
product | ethyl 3-dibenzylaminopropionate | 20.28 g | C(C1=CC=CC=C1)N(CCC(=O)OCC)CC1=CC=CC=C1 | C19H23NO2
